### ISSUE TITLE
multiApp is wrong

### ISSUE THREAD

**Issue by lengyijun** [cs-lean/cslib#706]
```lean4
theorem foo {f a b: Term String} : multiApp f (a :: b :: []) = (f.app b).app a := by
  grind
```

Should we change the documentation or the definition?

I found it when proving
```lean4
theorem foo {f a: Term String} {l} : f.abs.LC -> a.LC -> multiApp f.abs (a :: l) ⭢ℓ  multiApp (f^a) l := by
  induction l generalizing f a with
  | nil => apply BetaAt.outer
  | cons head tail ih =>  intros _ _
                          unfold multiApp
                          sorry
```

@m-ow @chenson2018

**Comment by chenson2018** [comment]
I see, so the direction is reversed of what the doc indicate so that `multiApp f [x₁, x₂, ..., xₙ]` is `(((f xₙ) xₙ₋₁) ... x₁)`? If you need this to more easily state theorems like your example, you can change this definition to match the docs (though I think it'll be a bit of a pain). If it's not urgent for you, a PR just fixing the docs is also welcome.

**Comment by lengyijun** [comment]
I will try to fix the definition
